US06221884B1
N-(pyridin-4-yl)-3-dimethylamino-1,2,3,4-tetrahydro-9H-carbazole-6-carboxamide Dihydrochloride
A mixture of 0.41 gm (1.0 mMol) 3-dimethylamino-9-triisopropylsilyl-1,2,3,4-tetrahydro-9H-carbazole-6-carboxylic acid, 0.77 gm (4.0 mMol) 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 0.54 gm (4.0 mMol) 1-hydroxybenzotriazole, and 0.38 gm (4.0 mMol) 4-aminopyridine in 10 mL dimethylformamide and 50 mL tetrahydrofuran were stirred together at room temperature for 3 days. Polystyrene bound isocyanate resin was added to the reaction mixture which was stirred at 40° C. for 6 hours to scavenge excess 4-aminopyridine. The reaction mixture was filtered, concentrated under reduced pressure and the residue subjected to preparative centrifugal thin layer chromatography (PCTLC), eluting with chloroform containing 5% methanol and 0.5% ammonium hydroxide. Fractions containing the desilylated product were combined and concentrated under reduced pressure to provide a yellow oil. This oil was dissolved in dichloromethane and treated with ethanolic hydrogen chloride. The resulting mixture was concentrated under reduced pressure to provide 0.22 gm (54%) of the title compound as a tan solid.

reactant | 3-dimethylamino-9-triisopropylsilyl-1,2,3,4-tetrahydro-9H-carbazole-6-carboxylic acid | 1.0 mMol, 0.41 gm | CN(C1CCC=2N(C3=CC=C(C=C3C2C1)C(=O)O)[Si](C(C)C)(C(C)C)C(C)C)C | C24H38N2O2Si
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 4.0 mMol, 0.77 gm | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 4.0 mMol, 0.54 gm | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-aminopyridine | 4.0 mMol, 0.38 gm | NC1=CC=NC=C1 | C5H6N2
reactant | isocyanate | [N-]=C=O
reactant | hydrogen chloride | Cl | ClH
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(pyridin-4-yl)-3-dimethylamino-1,2,3,4-tetrahydro-9H-carbazole-6-carboxamide Dihydrochloride | 0.22 gm, 54% | Cl.Cl.N1=CC=C(C=C1)NC(=O)C=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | InChI=1S/C20H22N4O.2ClH/c1-24(2)15-4-6-19-17(12-15)16-11-13(3-5-18(16)23-19)20(25)22-14-7-9-21-10-8-14;;/h3,5,7-11,15,23H,4,6,12H2,1-2H3,(H,21,22,25);2*1H
